* File: /home/eng/s/sxv240035/cad/gf65/tutorial/AOI21/HSPICE/AOI21.pex.sp.pex
* Created: Thu Dec  5 19:15:40 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI21%GND! 1 6 9 13 19 23 27 28
r46 13 28 10
r47 11 23 0.0199415
r48 11 13 0.988031
r49 10 19 0.0256162
r50 9 23 0.0256162
r51 9 10 1.19691
r52 6 27 10
r53 4 19 0.0199415
r54 4 6 0.988031
r55 1 19 15
.ends

.subckt PM_AOI21%OUT 3 6 7 9 10 12 18 21 24 26 27
r56 21 24 1.7
r57 19 24 0.0515171
r58 18 24 0.110105
r59 15 26 30
r60 12 15 0.388606
r61 12 26 10
r62 10 19 0.0803212
r63 10 12 0.563479
r64 9 18 0.0803212
r65 8 9 0.255508
r66 6 8 0.0479332
r67 6 7 0.341973
r68 3 27 10
r69 1 7 0.0479332
r70 1 3 0.339059
.ends

.subckt PM_AOI21%NET09 3 9 10 13 19 20
r44 16 20 30
r45 13 16 0.388606
r46 13 20 10
r47 11 13 0.34003
r48 9 11 0.0479332
r49 9 10 1.37071
r50 6 19 30
r51 3 6 0.388606
r52 3 19 10
r53 1 10 0.0479332
r54 1 3 0.34003
.ends

.subckt PM_AOI21%VDD! 1 6 15 20
r41 10 20 30
r42 6 10 0.388606
r43 6 20 10
r44 4 15 0.0185406
r45 4 10 1.40675
r46 1 15 30
.ends

.subckt PM_AOI21%B 4 6 10 12 14 17 23
c44 12 0 1.54476e-19
c45 6 0 2.67492e-19
r46 20 23 4.21922
r47 17 20 25
r48 14 17 1.7
r49 6 12 36.8926
r50 5 23 3.83544
r51 5 6 35.2529
r52 4 23 3.83544
r53 3 10 26.6446
r54 3 4 53.8017
.ends

.subckt PM_AOI21%A 4 6 10 12 14 17 23
c51 17 0 1.7284e-19
c52 14 0 9.46516e-20
c53 12 0 3.08952e-19
c54 10 0 1.54476e-19
c55 6 0 2.67492e-19
r56 20 23 4.21922
r57 17 20 25
r58 14 17 1.7
r59 6 12 36.8926
r60 5 23 3.83544
r61 5 6 35.2529
r62 4 23 3.83544
r63 3 10 26.6446
r64 3 4 53.8017
.ends

.subckt PM_AOI21%C 4 6 10 12 14 17 23
c55 17 0 1.7284e-19
c56 14 0 9.46516e-20
c57 12 0 1.54476e-19
c58 10 0 1.54476e-19
r59 20 23 4.21922
r60 17 20 25
r61 14 17 1.7
r62 6 12 36.8926
r63 5 23 3.83544
r64 5 6 35.2529
r65 4 23 3.83544
r66 3 10 26.6446
r67 3 4 53.8017
.ends

