* File: /home/eng/s/sxv240035/cad/gf65/tutorial/AOI22/HSPICE/AOI22.pex.sp.pex
* Created: Thu Dec  5 19:18:31 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI22%GND! 1 6 9 13 19 23 27 28
r50 13 28 10
r51 11 23 0.0199415
r52 11 13 0.988031
r53 10 19 0.0256162
r54 9 23 0.0256162
r55 9 10 1.69141
r56 6 27 10
r57 4 19 0.0199415
r58 4 6 0.988031
r59 1 19 15
.ends

.subckt PM_AOI22%OUT 3 6 7 12 18 19 21 23 26 28 30
c67 26 0 9.03704e-20
r68 23 26 1.7
r69 20 26 0.0515171
r70 20 21 0.0813891
r71 18 26 0.110105
r72 18 19 0.0813891
r73 15 28 30
r74 12 15 0.388606
r75 12 21 0.563479
r76 12 28 10
r77 8 19 0.255508
r78 6 8 0.0479332
r79 6 7 0.308942
r80 3 30 10
r81 1 7 0.0479332
r82 1 3 0.339059
.ends

.subckt PM_AOI22%NET26 3 9 10 14 19 20 23 29 30 32
c64 9 0 5.87562e-21
r65 27 32 30
r66 23 27 0.388606
r67 23 32 10
r68 21 27 0.866591
r69 19 21 0.0479332
r70 19 20 0.811215
r71 17 30 30
r72 14 17 0.388606
r73 14 30 10
r74 12 20 0.0479332
r75 12 17 0.866591
r76 11 14 0.342945
r77 9 11 0.0479332
r78 9 10 1.40443
r79 6 29 30
r80 3 6 0.388606
r81 3 29 10
r82 1 10 0.0479332
r83 1 3 0.342945
.ends

.subckt PM_AOI22%VDD! 1 6 15 20
r52 10 20 30
r53 6 10 0.388606
r54 6 20 10
r55 4 15 0.0185406
r56 4 10 1.40675
r57 1 15 30
.ends

.subckt PM_AOI22%B 4 6 10 12 14 17 23
c44 17 0 5.87562e-21
c45 12 0 1.54476e-19
c46 6 0 2.67492e-19
r47 20 23 4.21922
r48 17 20 25
r49 14 17 1.7
r50 6 12 36.8926
r51 5 23 3.83544
r52 5 6 35.2529
r53 4 23 3.83544
r54 3 10 26.6446
r55 3 4 53.8017
.ends

.subckt PM_AOI22%A 4 6 10 12 14 17 23
c51 17 0 1.7284e-19
c52 14 0 9.46516e-20
c53 12 0 3.08952e-19
c54 10 0 1.54476e-19
c55 6 0 2.67492e-19
r56 20 23 4.21922
r57 17 20 25
r58 14 17 1.7
r59 6 12 36.8926
r60 5 23 3.83544
r61 5 6 35.2529
r62 4 23 3.83544
r63 3 10 26.6446
r64 3 4 53.8017
.ends

.subckt PM_AOI22%C 4 6 10 12 14 17 23
c61 17 0 1.7284e-19
c62 14 0 9.46516e-20
c63 12 0 3.08952e-19
c64 10 0 1.54476e-19
r65 20 23 4.21922
r66 17 20 25
r67 14 17 1.7
r68 6 12 36.8926
r69 5 23 3.83544
r70 5 6 35.2529
r71 4 23 3.83544
r72 3 10 26.6446
r73 3 4 53.8017
.ends

.subckt PM_AOI22%D 4 6 10 12 14 22 23
c46 14 0 9.03704e-20
c47 12 0 1.54476e-19
r48 22 23 25
r49 19 22 4.18701
r50 14 23 1.7
r51 6 12 36.8926
r52 5 19 3.83544
r53 5 6 35.2529
r54 4 19 3.83544
r55 3 10 26.6446
r56 3 4 53.8017
.ends

